US06596772B1
A mixture of methyl 3,5-dihydroxybenzoate (100 mg, 0.595 mmol), 4-(trifluoromethylsulfonyl)chlorobenzene (291 mg, 2 equiv.) and potassium carbonate (330 mg, 4 equiv.) in DMF was heated to 100° C. overnight. The reaction was poured into water, extracted with EtOAc, washed the organic layer with water, brine, dried and concentrate. The residue was column chromatographed (1:2 EtOAc: Hex) to give 3,5-bis-(4-trifluoromethanesulfonyl-phenoxy)-benzoic acid methyl ester. 1HNMR (360 MHz, DMSO-d6) δ 8.12 (d, J=7.86 Hz, 4H), 7.67 (d, J=2.17 Hz, 2H), 7.61 (t, J=2.17 Hz, 1H), 7.42 (d, J=7.86 Hz, 4H), 3.85 (s, 3H, OCH3).

reactant | methyl 3,5-dihydroxybenzoate | 0.595 mmol, 100 mg | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
reactant | 4-(trifluoromethylsulfonyl)chlorobenzene | 291 mg, 2 equiv. | FC(S(=O)(=O)C1=CC=C(C=C1)Cl)(F)F | C7H4ClF3O2S
reactant | potassium carbonate | 330 mg, 4 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3,5-bis-(4-trifluoromethanesulfonyl-phenoxy)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)OC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)=O | C22H14F6O8S2
